US06403639B1
Under argon atmosphere, 294 mg of 4-acetoxy-3,5-diisopropylphenol was dissolved in 10 ml of anhydrous dichloromethane, 2.25 g of 3-chloro-2-methyl-1-propene, 202 mg of anhydrous zinc chloride and 0.5 ml of acetic acid were added, and the mixture was stirred at room temperature for 3 days. After the reaction was quenched with water, the reaction solution was extracted with hexane. The organic layers were washed with a saturated aqueous sodium bicarbonate solution and saturated brine, dried over anhydrous magnesium sulfate and then concentrated. The concentrate was purified by silica gel column chromatography (in n-hexane containing 1% ethyl acetate) to give 316 mg of 5-acetoxy-2,2-dimethyl-4,6-diisopropyl-2,3-dihydrobenzofuran as a yellow oil (yield 88%).

reactant | 4-acetoxy-3,5-diisopropylphenol | 294 mg | C(C)(=O)OC1=C(C=C(C=C1C(C)C)O)C(C)C | C14H20O3
reactant | 3-chloro-2-methyl-1-propene | 2.25 g | ClCC(=C)C | C4H7Cl
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | zinc chloride | 202 mg | [Cl-].[Zn+2].[Cl-]
product | 5-acetoxy-2,2-dimethyl-4,6-diisopropyl-2,3-dihydrobenzofuran | 316 mg, yield 88% | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)C)C1C(C)C)C(C)C | C18H26O3
